US04225711
Step A--3-Bromo-4-chlorophenylhydrazine hydrochloride
3-Bromo-4-chloroaniline (41.3 g., 0.2 mole) in 90 ml of 6 N hydrochloric acid, cooled to -10° is treated with 14 g. of sodium nitrite in 30 ml. of water. Add this solution, with stirring, to a cold (-10° C.) solution of 55 g. of sodium bisulfite and 20 g. of sodium hydroxide in 200 ml. of water. After the red precipitate appears, allow the mixture to warm to room temperature. Add 200 ml. of concentrated hydrochloric acid and heat at 90°-100° C. for 4 hours. Allow the mixture to cool overnight, collect the material washing with 50 ml of cold 3 N hydrochloric acid. The product is dried. Recrystallization from ether-methanol yields the desired material, m.p. 208°-210° C.

reactant | 3-Bromo-4-chloroaniline | 0.2 mole, 41.3 g | BrC=1C=C(N)C=CC1Cl | C6H5BrClN
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6 N, 90 ml | Cl | ClH
solvent | water | O | H2O
product | 3-Bromo-4-chlorophenylhydrazine hydrochloride | Cl.BrC=1C=C(C=CC1Cl)NN | InChI=1S/C6H6BrClN2.ClH/c7-5-3-4(10-9)1-2-6(5)8;/h1-3,10H,9H2;1H
